US09145391B2
A mixture of 4-chloropyridin-2-amine (2.6 g, 15 mmol), cyclopropylboronic acid (2.6 g, 30 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (1.2 g, 1.5 mmol), and potassium carbonate (4.0 g, 30 mmol) in 1,4-dioxane (40 mL) and water (5 mL) was stirred at 80° C. for 15 hours. After allowing to cool to room temperature, the reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (petroleum ether:ethyl acetate=5:1) to give 4-cyclopropylpyridin-2-amine. MS ESI calcd. for C8H11N2 [M+H]+135, found 135. 1H NMR (400 MHz, CDCl3) δ 7.91 (d, J=6.0 Hz, 1H), 6.31-6.29 (m, 1H), 6.23-6.22 (m, 1H), 4.99 (s, 2H), 1.79-1.72 (m, 1H), 1.06-1.01 (m, 2H), 0.78-0.74 (m, 2H).

reactant | 4-chloropyridin-2-amine | 15 mmol, 2.6 g | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | cyclopropylboronic acid | 30 mmol, 2.6 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium carbonate | 30 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 1.5 mmol, 1.2 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-cyclopropylpyridin-2-amine | C1(CC1)C1=CC(=NC=C1)N | C8H10N2
